US07723369B2
2-(4′-Cyclohexyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-1H-imidazole (250 mg, 0.54 mmol) was treated according to general procedure B using 2-fluoro-5-nitrotoluene to provide 2-(4′-cyclohexyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-1-(2-methyl-4-nitro-phenyl)-1H-imidazole, which was collected without purification. Treatment of the nitro compound as described in general procedure C provided 5-{4-[2-(4′-cyclohexyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-3-methyl-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 2-(4′-Cyclohexyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-1H-imidazole | 0.54 mmol, 250 mg | C1(CCCCC1)C1=CC=C(C=C1)C1=CC=C(C=C1)CC=1NC=C(N1)C1=C(C=C(C=C1)Cl)Cl | C28H26Cl2N2
reactant | 2-fluoro-5-nitrotoluene | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
product | 2-(4′-cyclohexyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-1-(2-methyl-4-nitro-phenyl)-1H-imidazole | C1(CCCCC1)C1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=C(C=C(C=C1)[N+](=O)[O-])C | C35H31Cl2N3O2
